US09193935B2
2.22: (4-(4-tert-Pentylcyclohexyl)but-2-enyl)benzene
Starting from phenethyltriphenylphosphonium bromide (2.00 g, 4.47 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 2.8 mL, 4.47 mmol, 1.0 equiv.) and 2-(4-tert-pentylcyclohexyl)acetaldehyde (1.32 g, 6.71 mmol, 1.5 equiv.), 0.62 g (48%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane).

reactant | phenethyltriphenylphosphonium bromide | 4.47 mmol, 2.00 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 4.47 mmol, 1.6 M, 2.8 mL, 1.0 equiv. | [Li]CCCC
reactant | 2-(4-tert-pentylcyclohexyl)acetaldehyde | 6.71 mmol, 1.32 g, 1.5 equiv. | C(C)(C)(CC)C1CCC(CC1)CC=O | C13H24O
product | (4-(4-tert-Pentylcyclohexyl)but-2-enyl)benzene | 0.62 g, 48% | C(C)(C)(CC)C1CCC(CC1)CC=CCC1=CC=CC=C1 | C21H32
